US08975254B2
(R)—N-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(morpholine-4-carbonyl)-1H-pyrazole-5-carboxamide
The title compound was synthesized using the method of Example 30, but replacing 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid with 3,5-pyrazoledicarboxylic acid. Thus obtained (R)-5-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)-1H-pyrazole-3-carboxylic acid was coupled with morpholine according to synthesis of 5-(piperazine-1-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide, Example 1, but replacing piperazine with morpholine. Crude product was purified by chromatography (CombiFlash, 1st column silica, eluent: 0-10% MeOH/DCM; 2nd column C-18 RP eluent: 0-100% MeCN/water) to obtain 24 mg (45%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 2.60 (s, 3H), 3.79 (m, 8H), 4.29 (dd, 1H), 4.42 (dd, 1H), 4.60 (m, 1H), 6.61 (d, 1H), 7.02 (s, 1H), 7.47 (d, 1H), 7.63 (m, 2H), 7.72 (d, 1H), 7.79 (s, 1H), 11.09 (s, 1H).

reactant | 3,5-pyrazoledicarboxylic acid | N1N=C(C=C1C(=O)O)C(=O)O | C5H4N2O4
reactant | (R)-5-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)-1H-pyrazole-3-carboxylic acid | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=CC(=NN1)C(=O)O)C | C19H18N6O3
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 5-(piperazine-1-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1NN=C(C1)C(=O)N1CCNCC1 | C21H21Cl2N5O3
product | (R)—N-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(morpholine-4-carbonyl)-1H-pyrazole-5-carboxamide | 24 mg, 45% | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=CC(=NN1)C(=O)N1CCOCC1)C | C23H25N7O3
